US04082755
A mixture of 10 parts of N-(2-chloroethyl)-4-fluoro-α-(4-fluorophenyl)benzenemethanamine hydrochloride, 7.3 parts of 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 10.6 parts of sodium carbonate, 0.1 parts of potassium iodide and 80 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. Water is added to the reaction mixture. The precipitated product is filtered off and set aside. From the filtrate, the organic phase is separated, washed with water, dried, filtered and evaporated. The residue is stirred in 4-methyl-2-pentanone. The solid product is filtered off, combined with the precipitated product, obtained above, and crystallized from 4-methyl-2-pentanone. The product is filtered off and dried in vacuo at 95° C, yielding 5 parts of 1-{1-[2-{[bis(4-fluorophenyl)methyl]amino}ethyl]-4-piperidinyl}-5-chloro-1,3-dihydro-2H-benzimidazol-2-one; mp. 198.6° C.

reactant | N-(2-chloroethyl)-4-fluoro-α-(4-fluorophenyl)benzenemethanamine hydrochloride | Cl.ClCCNC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F
reactant | 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | Water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-{1-[2-{[bis(4-fluorophenyl)methyl]amino}ethyl]-4-piperidinyl}-5-chloro-1,3-dihydro-2H-benzimidazol-2-one | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)NCCN1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | C27H27ClF2N4O
